US04060528
A mixture of 6 parts of 2-methyl-3-(2-thenoyl)hydratroponitrile, 2.7 parts of potassium hydroxide, 28 parts of ethanol and 3.5 parts of water is stirred and refluxed for 44 hours. The reaction mixture is evaporated. The residue is taken up in water and washed twice with 80 parts of ether. The aqueous phase is acidified with concentrated hydrochloric acid solution. The separated oily product is extracted with ether. Then the latter is dried and evaporated. The oily residue solidifies on triturating in petroleumether. The product is crystallized from acetonitrile at -20° C, yielding a first fraction of 2-methyl-3-(2-thenoyl)hydratropic acid; mp. 118.7° C. The mother-liquor is evaporated. The residue solidifies on triturating in petroleumether, yielding a second fraction of 2-methyl-3-(2-thenoyl)hydratropic acid; mp. 100° C.

reactant | 2-methyl-3-(2-thenoyl)hydratroponitrile | CC1=C(C(C#N)C)C=CC=C1C(C1=CC=CS1)=O | C15H13NOS
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-methyl-3-(2-thenoyl)hydratropic acid | CC1=C(C(C(=O)O)C)C=CC=C1C(C1=CC=CS1)=O | C15H14O3S
